US04547508
3,4-Dihydro-6,7-dimethoxy-1-phenyl-3-(3-pyridyl)isoquinoline
1.8 g of N-[2-(3,4-dimethoxyphenyl)-1-(3-pyridyl)ethyl]benzamide in 20 ml of phosphorus oxychloride are stirred at 60° C. for 5 hours and at 120° C. for 1.5 hours. The yellow precipitate is filtered off with suction, dissolved in 200 ml of water, and the solution is made alkaline with potassium carbonate and extracted twice with methylene chloride. 1.6 g of dihydroisoquinoline compound of melting point 180°-182° C. are isolated.

reactant | N-[2-(3,4-dimethoxyphenyl)-1-(3-pyridyl)ethyl]benzamide | 1.8 g | COC=1C=C(C=CC1OC)CC(C=1C=NC=CC1)NC(C1=CC=CC=C1)=O | C22H22N2O3
solvent | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3,4-Dihydro-6,7-dimethoxy-1-phenyl-3-(3-pyridyl)isoquinoline | 1.6 g | COC=1C=C2CC(N=C(C2=CC1OC)C1=CC=CC=C1)C=1C=NC=CC1 | C22H20N2O2
